US07381737B2
To a suspension of 4-[(5S*,9R*)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile hydrochloric acid salt (1.00 kg, 2.21 mol) in dichloromethane (10.67 L) was added diispopropylethylamine (0.29 kg, 2.21 mol). The mixture was stirred to a clear solution, to which (+)-Di-p-toluoyl-D-tartaric acid (0.21 kg, 0.55 mol) was added. The resulting solution was warmed to 34-36° C. and seeded immediately. It was cooled to 20-25° C. in 1.5-2.0 hours. Crystallization occurred during cooling. TBME (2.75 L) was added in 0.5 hours. The suspension was stirred at 20-25° C. for 16 hours and then filtered. The filter cake was washed with dichloromethane/TBME (2/1, 1.00 L), TBME (1 L) and dried at maximum 35° C. to a constant weight. 4-[(5S,9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile semi (+)-DTTA salt (0.47 kg, 35%) was obtained as a white crystalline solid. mp=175-177° C. 1H NMR (DMSO-d6): 7.86 (2H, d, J=8.1 Hz), 7.81 (2H, d, J=8.3 Hz), 7.61 (1H, m), 7.28 (2H, d, J=8.1 Hz), 7.22 (2H, 8.5 Hz), 6.68 (2H, m), 5.71 (1H, s), 3.81(1H, m), 3.50 (4H, m), 3.06 (3H, s), 2.34 (3H, s). 13C NMR (DMSO-d6): 24 Carbons (171.45, 169.40, 165.04, 152.88, 143.61, 138.99, 133.88, 133.08, 132.16, 129.26, 129.20, 128.76, 127.84, 126.99, 124.51, 118.25, 110.78, 72.81, 73.38, 48.15, 47.51, 46.30, 24.90, 21.14). Anal. Calcd for C30H25Cl2N4O6+0.5 H2O: C, 58.40; H, 4.17; N, 9.08; Cl, 11.49. Found C, 58.58; H, 4.06; N, 8.94; Cl, 11.38; KF, 1.59.

reactant | 4-[(5S*,9R*)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile hydrochloric acid salt | 2.21 mol, 1.00 kg | Cl.ClC=1C=C(C=C(C1)Cl)N1C(N([C@]2(C1=O)CNC[C@H]2C2=CC=C(C#N)C=C2)C)=O
reactant | (+)-Di-p-toluoyl-D-tartaric acid | 0.55 mol, 0.21 kg | C1(=CC=C(C=C1)C(=O)[C@@]([C@@](C(=O)O)(O)C(=O)C1=CC=C(C=C1)C)(O)C(=O)O)C | C20H18O8
solvent | dichloromethane | 10.67 L | ClCCl | CH2Cl2
product | 4-[(5S,9R)-3-(3,5-Dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile | 0.47 kg, 35% | ClC=1C=C(C=C(C1)Cl)N1C(N([C@]2(C1=O)CNC[C@H]2C2=CC=C(C#N)C=C2)C)=O | C20H16Cl2N4O2
